US07345056B2
12-(4-Chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-diene-4-carboxylic acid allyl ester MS (ES) m/e 422.0 (M+H)
Prepared by acylation of 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene using allylchloroformate

reactant | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3CC1CCC2 | C15H16ClN3O2S
reactant | allylchloroformate | C(C=C)OC(=O)Cl | C4H5ClO2
product | 12-(4-Chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2,5-diene-4-carboxylic acid allyl ester | C(C=C)OC(=O)N1C=C2C3CCCC(CC2=N1)N3S(=O)(=O)C3=CC=C(C=C3)Cl | C19H20ClN3O4S
